US04517193
Preparation of isopropyl 2-[[[4-(trifluoromethoxy)phenyl]amino]thio]benzoate
A solution of bromine (0.65 ml) in dry methylene chloride (10 ml) was added over thirty minutes to a stirred solution of diisopropyl 2,2'-dithiobisbenzoate (4.9 g) in the same solvent (40 ml) at ambient temperature. The resulting dark red solution was stirred at this temperature for 1.25 hours and was then added over thirty minutes to a stirred solution of 4-(trifluoromethoxy)aniline (4.45 g) in dry methylene chloride (100 ml) containing triethylamine (5.0 ml). The temperature of the reaction mixture was kept at 5°-10° C. throughout the addition by means of an ice bath and when the addition had been completed, the reaction was allowed to warm to ambient temperature over 4.0 hours. The solvent was removed under reduced pressure and the residue was suspended in diethyl ether (250 ml) and washed with water to remove triethylamine hydrobromide. The resulting diethyl ether solution was dried using magnesium sulphate and evaporated to yield the crude product which was purified by crystallisation from diethyl ether/light petroluem.

reactant | bromine | 0.65 ml | BrBr | Br2
reactant | diisopropyl 2,2'-dithiobisbenzoate | 4.9 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)OC(C)C)C=CC=C1)(=O)OC(C)C | C20H22O4S2
reactant | 4-(trifluoromethoxy)aniline | 4.45 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | isopropyl 2-[[[4-(trifluoromethoxy)phenyl]amino]thio]benzoate | FC(OC1=CC=C(C=C1)NSC1=C(C(=O)OC(C)C)C=CC=C1)(F)F | C17H16F3NO3S
